2108-03-20 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   62 year old woman with ulcerative colitis, GI bleeding, severe right
   ventricular dysfunction, gross volume overload, s/p PFO repair with
   endovascular device, presenting from PACU after C-Scope and
   EGD.
   24 Hour Events:
   - Patient stable overnight.
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   MetronidAZOLE Topical 1 % Gel DAILY:PRN
   Miconazole 2% Cream 1 Appl TP [**Hospital1 **]:PRN
   Midodrine 10 mg PO TID
   Aspirin EC 325 mg PO DAILY
   Oxycodone-Acetaminophen 1 TAB PO Q6H:PRN pain
   Clopidogrel 75 mg PO DAILY
   Pantoprazole 40 mg PO Q12H
   FoLIC Acid 1 mg PO DAILY
   Gabapentin 100 mg PO HS
   Lidocaine 5% Patch 1 PTCH TD DAILY PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-3-20**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 75 (64 - 77) bpm
   BP: 99/69(76) {91/45(60) - 154/97(111)} mmHg
   RR: 11 (7 - 19) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  200 mL
   PO:
                  200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GENERAL: NAD.  breathing comfortably.
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.
   CARDIAC: Irregularly irregular, no m/g/r. 10cm JVD. R Parasternal lift
   with nondisplaced PMI.
   LUNGS: Mild bibasilar crackles.
   ABDOMEN: NABS. Soft, NT/ND, no rebound.
   EXTREMITIES: 2+ lower extremity peripheral edema.  poor capillary
   refill.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. Preserved sensation throughout. 5/5 strength
   throughout.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   225 K/uL
   7.5 g/dL
   96 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.3 mEq/L
   86 mg/dL
   93 mEq/L
   132 mEq/L
   23.5 %
   3.5 K/uL
        [image002.jpg]
                             [**2108-3-19**]  07:32 PM
                             [**2108-3-20**]  04:31 AM
   WBC
   3.8
   3.5
   Hct
   26.4
   23.5
   Plt
   266
   225
   Cr
   2.5
   2.6
   Glucose
   105
   96
   Other labs: PT / PTT / INR:13.6/33.9/1.2, Differential-Neuts:75.2 %,
   Lymph:10.7 %, Mono:11.1 %, Eos:2.4 %, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:6.4 mg/dL
   Assessment and Plan
   62 year old woman with ulcerative colitis, GI bleeding, severe right
   ventricular dysfunction, gross volume overload, s/p PFO repair with
   endovascular device, presenting from PACU after C-Scope and EGD, now
   with persistent melena.
   .
   # ULCERATIVE COLITIS / GI BLEEDING:   Persistent.  Patient s/p ligation
   and epinephrine injection of ulcers in duodenum, and colon.  Patient
   HCT has dropped from 26
 23 and is having melena.  Patient on dual
   antiplatelet agents for the PFO closure device.  Patient will need to
   stay in the ICU for further monitoring as patient may need intervention
   from GI.  At this point, patient
s transfusion goal should be > 30
   given her other underlying medical issues.
   -- Tranfuse 2u PRBCs for goal HCT > 30, with Lasix 100mg IV once
   -- monitor hct q8H
   -- continue ppi [**Hospital1 **]
   -- f/u GI recs
   -- hold beta blocker until hct has stablized
   .
   # R CHF: 2/2 L sided diastolic dysfunction.  Patient with biventricular
   diastolic dysfunction.  Patient with small persistent PFO, despite
   closure.  Patient had been on Lasix gtt and metolazone 5 mg [**Hospital1 **] with
   poor UOP and increasing creatinine and previously required midodrine to
   maintain increased SVR to allow diuresis.  Renal was consulted on
   [**2108-3-18**] for possible ultrafitration/HD to remove excess fluid.  For
   now, will administer lasix boluses with transfusion.
   - Lasix 100mg IV once
   - Continue midodrine 10mg PO TID (0800, 1200, and 1600 hrs)
   .
   # Hypothermia:  During rounds, patient
s Temp was 95 PR.  Unclear
   etiology.  Patient
s TSH was elevated in past, FT4 was normal one month
   ago.
   - Warming blanket
   - Monitor.
   .
   #ARF, stage III chronic renal failure:  Cr 2.5, b/l 1.5-1.8.  Likely
   secondary to use of diuretics in patient.  Patient a possible candidate
   for HD filtration.
   - continue to trend creatinine
   - Check urine lytes
   - appreciate renal recs
   .
   # s/p PFO closure: s/p percutaneous closure [**2108-3-14**] without
   complication.  Echo [**3-15**] shows mild residual shunt as 18 gauge had to
   be used
   - repeat echo in 8 weeks
   - continue aspirin and plavix for one month, for now.
   .
   Afib: chronic
   - no anticoagulation; continue aspirin
   - currently rate controlled
   - holding beta blocker until hct stabilizes
   .
   PPX:
   -DVT ppx with p-boots
   -Bowel regimen
   .
   ACCESS: PIV's
   .
   CODE STATUS: Presumed full
   .
   EMERGENCY CONTACT: [**Name (NI) **] is HCP: [**Name (NI) 831**] ([**0-0-**])
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-3-19**] 09:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-03-20 10:20:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated.
   No new complaints.  Deinies increased dyspnea.
   Remains on ASA and plavix.
   Continues to experience melana.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss,
   Hypothermia
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-3-20**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 71 (64 - 83) bpm
   BP: 85/43(52) {85/42(52) - 154/97(111)} mmHg
   RR: 15 (7 - 20) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  200 mL
   PO:
                  200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Ox3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   225 K/uL
   96 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.3 mEq/L
   86 mg/dL
   93 mEq/L
   132 mEq/L
   23.5 %
   3.5 K/uL
        [image002.jpg]
                             [**2108-3-19**]  07:32 PM
                             [**2108-3-20**]  04:31 AM
   WBC
   3.8
   3.5
   Hct
   26.4
   23.5
   Plt
   266
   225
   Cr
   2.5
   2.6
   Glucose
   105
   96
   Other labs: PT / PTT / INR:13.6/33.9/1.2, Differential-Neuts:75.2 %,
   Lymph:10.7 %, Mono:11.1 %, Eos:2.4 %, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:6.4 mg/dL
   Assessment and Plan
   GI Bleed in setting of severe biventricular failure with recent
   correction of PFO.
   Respiratory distress -- clinically stable. continue oxygen, maintain
   SaO2 >90%.  Monitoring respiratory status
   GI bleed -- Mulbiple sources, including lower and upper GI tract;  PUD
   (DU noted with visible vessel), and superficial ulcerations in sigmoid
   colon (likely related to ulcerative colitis).  Received 1 U PRBC (total
   3 U PRBC over past week).  Maintain iv access.
   Patent Foramen Ovale closure -- s/p repair.  Cardiology consulted re:
   contined need for ASA & plavix in setting of PFO s/p occlusive device.
   Serial Hct.  Continue PPI.  GI following
   Anemia -- secondary to blood loss, transfuse to hct of 30
   CHF - biventricular.  Careful fluid balance, follow sats
   A-FIb -- chronic; rate controllled.
   Acute on Chronic Renal failure -- renal following, considering
   ultrafiltration
   HYPOTHERMIA -- consider re-check TFT, adrenal axis.
   NUTRITIONAL SUPPORT -- NPO pending completion of evaluation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-3-19**] 09:19 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2108-03-21 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pt got 1 unit of blood and lasix 100mg IV with poor urine output of
   40cc over 6-8hrs.  Had elevated CVP based on u/s of IJ.  Given
   additional 200 IV lasix.  Still with poor UOP.
   -post HCT bump appropriate 21.9 -> 25.3
   -after transfusion very mild wheezes, alb neb given
   -cardiology recommended d/c ASA and plavix
   -diet changed to Full liquids; Phosphorus: 1 gm
   -second peripheral IV placed
   -d/c tylenol
   -foley placed
   -SPEP, UPEP, LFTs (AP 150, tbili 1.9, Tprot 5.5), and alb ordered
   -spoke with [**Last Name (un) **] her primary GI doctor, pt would like all future GI
   procedure done through him
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-3-21**] 01:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Complains of pain in left and right antecubes. Still having melanotic
   stools. No shortness of breath.
   Flowsheet Data as of  [**2108-3-21**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.6
C (96
   HR: 81 (71 - 91) bpm
   BP: 104/45(59) {82/34(50) - 106/73(79)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    523 mL
                                                                     27 mL
   PO:
                                                                    200 mL
                  TF:
   IVF:
   Blood products:
                                                                    323 mL
                                                                     27 mL
   Total out:
                                                                    365 mL
                                                                     20 mL
   Urine:
                                                                    365 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    158 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Gen: A/Ox3, conversant
   Neck: JVP to Ears
   Heart: Irregular rhythm, regular rate.
   Lungs; Scant crackles in bases bilaterally
   Abd: soft, mildly tender in LLQ, BS+
   Ext: 3+ pitting edema to knee bilaterally, LUE edema >>RUE edema.
   Erythema, warmth, tenderness and fluctuance at site of prior IV in L
   antecube.
   Labs / Radiology
   223 K/uL
   8.3 g/dL
   107 mg/dL
   3.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   87 mg/dL
   95 mEq/L
   133 mEq/L
   25.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2108-3-19**]  07:32 PM
                             [**2108-3-20**]  04:31 AM
                             [**2108-3-20**]  01:40 PM
                             [**2108-3-20**]  06:12 PM
                             [**2108-3-21**]  02:05 AM
   WBC
   3.8
   3.5
   4.9
   Hct
   26.4
   23.5
   22.5
   21.9
   25.3
   Plt
   266
   225
   223
   Cr
   2.5
   2.6
   3.1
   Glucose
   105
   96
   107
   Other labs: PT / PTT / INR:13.6/33.9/1.2, ALT / AST:[**7-19**], Alk Phos / T
   Bili:150/1.9, Differential-Neuts:75.2 %, Lymph:10.7 %, Mono:11.1 %,
   Eos:2.4 %, Albumin:3.3 g/dL, LDH:184 IU/L, Ca++:9.3 mg/dL, Mg++:2.1
   mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   62 year old woman with ulcerative colitis, persistent melena, severe
   volume overload [**1-23**] RHF and  UOP not responsive to diuresis.
   # ULCERATIVE COLITIS / GI BLEEDING:   Persistent.  Patient s/p ligation
   and epinephrine injection of ulcers in duodenum, and colon.  Patient
   HCT has dropped from 26
 23 and is having melena.  Patient was on dual
   antiplatelets for the PFO closure device.  Patient was in ICU for
   monitoring.  At this point, patient
s transfusion goal should be > 30
   given her other underlying medical issues, but pt. has been refusing
   transfusion to that goal. Was transfused one unit last night and Hct
   bumped appropriately to 25 this morning and now stable at 24.  Per GI
   ok to move to cards floor for diuresis. Discontinued plavix and now on
   only 81mg ASA. Holding anticoagulation for afib given bleeding.
   -- monitor hct q6
   -- continue ppi [**Hospital1 **]
   -- f/u GI recs
   -- hold beta blocker until hct has stablized
   - Hold anticoagulation
   .
   # R CHF: 2/2 L sided diastolic dysfunction.  Patient with biventricular
   diastolic dysfunction.  Patient with small persistent PFO, despite
   closure.  Patient had been on Lasix gtt and metolazone 5 mg [**Hospital1 **] with
   poor UOP and increasing creatinine and previously required midodrine to
   maintain increased SVR to allow diuresis.  Renal was consulted on
   [**2108-3-18**] for possible ultrafitration/HD to remove excess fluid.  For
   now, will administer lasxi drip with metolazone. Pt. extremely lasix
   resistant, did not put out to 100mg bolus and then 200mg bolus of lasix
   last night.
   - Lasix drip
   - Metolazone 5mg [**Hospital1 **]
   - Transfer to cardiology floor for diuresis
   .
   # Hypothermia:  During rounds several days ago temp was 95Unclear
   etiology.  Patient
s TSH was elevated in past, FT4 was normal one month
   ago.
    Resolved, but temps still on low side.
   .
   #ARF, stage III chronic renal failure:  Cr 3.1. baseline 1.5-1.8.Likely
   secondary to diuresis and poor forward flow given FeUrea 17% and low
   blood pressures.  ARF began w/ onset of diuresis and pt. has had some
   hypotension.
   - Transfer to cardiology floor for diuresis.
   - continue to trend creatinine
   - appreciate renal recs, consider UF if gets short of breath and not
   able todiurese.
   .
   # s/p PFO closure: s/p percutaneous closure [**2108-3-14**] without
   complication.  Echo [**3-15**] shows mild residual shunt as 18 gauge had to
   be used. Per cardiology we stopped her plavix and full dose aspirin and
   put her on 81mg ASA.
   - repeat echo in 8 weeks
   - continue aspirin low dose for now
   - Holding plavix for GI bleed
   .
   Afib: chronic
   - no anticoagulation; continue aspirin
   - currently rate controlled
   - holding beta blocker until hct stabilizes
   .
   PPX:
   -DVT ppx with p-boots
   -Bowel regimen
   .
   ACCESS: PIV's
   .
   CODE STATUS: Presumed full
   .
   EMERGENCY CONTACT: [**Name (NI) **] is HCP: [**Name (NI) 831**] ([**0-0-**])
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-3-20**] 11:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-03-21 11:28:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received 1 U PRBC.
   Some mild dyspnea this AM, but unchanged.
   Remains on supplimental oxygen @ 2 L NP.
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Shellfish Derived
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-3-21**] 01:33 AM
   Pantoprazole (Protonix) - [**2108-3-21**] 08:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-3-21**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.6
C (96.1
   HR: 77 (76 - 91) bpm
   BP: 89/43(53) {86/34(50) - 106/62(72)} mmHg
   RR: 9 (9 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    523 mL
                                                                     37 mL
   PO:
                                                                    200 mL
           TF:
   IVF:
   10 mL
   Blood products:
                                                                    323 mL
                                                                     27 mL
   Total out:
                                                                    365 mL
                                                                     70 mL
   Urine:
                                                                    365 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    158 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   223 K/uL
   107 mg/dL
   3.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   87 mg/dL
   95 mEq/L
   133 mEq/L
   25.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2108-3-19**]  07:32 PM
                             [**2108-3-20**]  04:31 AM
                             [**2108-3-20**]  01:40 PM
                             [**2108-3-20**]  06:12 PM
                             [**2108-3-21**]  02:05 AM
   WBC
   3.8
   3.5
   4.9
   Hct
   26.4
   23.5
   22.5
   21.9
   25.3
   Plt
   266
   225
   223
   Cr
   2.5
   2.6
   3.1
   Glucose
   105
   96
   107
   Other labs: PT / PTT / INR:13.6/33.9/1.2, ALT / AST:[**7-19**], Alk Phos / T
   Bili:150/1.9, Differential-Neuts:75.2 %, Lymph:10.7 %, Mono:11.1 %,
   Eos:2.4 %, Albumin:3.3 g/dL, LDH:184 IU/L, Ca++:9.3 mg/dL, Mg++:2.1
   mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   GI Bleed in setting of severe biventricular failure with recent
   correction of PFO.
   Respiratory distress -- clinically stable. continue oxygen, maintain
   SaO2 >90%.  Monitoring respiratory status.
   GI bleed -- Multiple sources, including lower and upper GI tract;  PUD
   (DU noted with visible vessel), and superficial ulcerations in sigmoid
   colon (likely related to ulcerative colitis).  Received additional 1 U
   PRBC (total 4 U PRBC over past week).  Maintain iv access.
   Patent Foramen Ovale closure -- s/p repair.  Smaller dose ASA & hold
   plavix per Cardiology.  GI following
    Anemia -- secondary to blood loss;  continue serial Hct, transfuse to
   Hct >27.
   CHF - biventricular.  Careful fluid balance, follow sats.  [**Month (only) 60**] require
   more aggressive diuresis (ex. metolazone + lasix, lasix drip, different
   [**Doctor Last Name **]).  Cardiology following.
   A-FIb -- chronic; rate controllled.
   Acute on Chronic Renal failure -- pre-renal, perhaps low flow state;
   Renal Consultant following, considering ultrafiltration is  unable to
   diurese.
   HYPOTHERMIA -- consider re-check TFT, adrenal axis.
   NUTRITIONAL SUPPORT -- NPO pending completion of evaluation.
   [**Month (only) 60**] need iv access (PICC).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-3-20**] 11:47 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :[**Hospital **]
 transfer to cardiology service once Hct stable.
   Total time spent: 45 minutes
   Critically ill